US04548932
A mixture of benzyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate hydrochloride (2.5 g), ethanol (30 ml), sodium acetate (0.57 g), acetic acid (0.4 g), ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-oxovalerate (2.5 g) and molecular sieves 3A (10 g) is stirred for 10 minutes at room temperature. To the stirred mixture is added dropwise a solution of sodium cyanoborohydride (0.4 g) in ethanol (50 ml) for 2 hours. After standing overnight at room temperature, the mixture is concentrated in vacuo and diluted with a mixture of water (300 ml) and ethyl acetate (300 ml). The resulting mixture is agitated thoroughly and filtered. The ethyl acetate layer is separated, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is dissolved in a mixture of ethyl acetate (20 ml) and oxalic acid (2 g). This solution is diluted with petroleum ether (300 ml), and the supernatant layer is removed by decantation. To the precipitate are added water (100 ml), ethyl acetate (200 ml) and excess sodium bicarbonate. The ethyl acetate layer is separated, dried over anhydrous magnesium sulfate and evaporated in vacuo. The oily residue is subjected to silica gel column chromatography using hexane-ethyl acetate (2:1) as an eluent. Evaporation of the first fraction gives benzyl 3(S)-[4-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylbutyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.65 g) as a colorless oil.

reactant | benzyl 3(S)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate hydrochloride | 2.5 g | Cl.N[C@H]1COC2=C(N(C1=O)CC(=O)OCC1=CC=CC=C1)C=CC=C2
reactant | sodium acetate | 0.57 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 5-(1-benzyloxycarbonyl-4-piperidyl)-2-oxovalerate | 2.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC(C(=O)OCC)=O | C20H27NO5
reactant | sodium cyanoborohydride | 0.4 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | acetic acid | 0.4 g | C(C)(=O)O | C2H4O2
product | benzyl 3(S)-[4-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylbutyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.65 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC[C@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)OCC1=CC=CC=C1)C=CC=C2 | C38H45N3O8
